US04329518
A solution of 46 ml of concentrated sulfuric acid and 23.5 ml of concentrated nitric acid was added slowly to a stirred solution of 2,6-dimethylbenzoic acid (50.0 g, 0.333 mole) in 200 ml of methylene chloride at a rate such that a gentle reflux was maintained throughout the addition. After complete addition, reflux was maintained for 30 minutes. The reaction mixture was cooled, poured onto 300 g of ice and the organic phase separated. The aqueous phase was extracted with three 200 ml portions of diethyl ether, and the organic phases were combined, dried over anhydrous magnesium sulfate, and filtered. The solvent was removed from the filtrate under reduced pressure to give 2,6-dimethyl-3-nitrobenzoic acid (60.2 g) as a solid.

reactant | sulfuric acid | 46 ml | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | 23.5 ml | [N+](=O)(O)[O-] | HNO3
reactant | 2,6-dimethylbenzoic acid | 0.333 mole, 50.0 g | CC1=C(C(=O)O)C(=CC=C1)C | C9H10O2
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 2,6-dimethyl-3-nitrobenzoic acid | 60.2 g | CC1=C(C(=O)O)C(=CC=C1[N+](=O)[O-])C | C9H9NO4
